US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (200 mg) is dissolved in N,N-dimethylformamide (2 ml), and thereto are added triethylamine (53 μl), 3-methylaminopropionic acid tert-butyl ester hydrochloride (101.14 mg), 1-hydroxybenzotriazole hydrate (65 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (92 mg) under ice-cooling. The mixture is stirred at room temperature for 21 hours. The reaction solution is concentrated under reduced pressure, then the residue is partitioned by adding a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the organic layer is concentrated under reduced pressure. The resulting residue is dissolved in a solution (2 ml) of 4N hydrochloric acid in 1,4-dioxane and stirred at room temperature for 1 hour. To the reaction solution is added excessive saturated aqueous sodium bicarbonate solution, and the mixture is neutralized with 1N HCl, then extracted with ethyl acetate and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=1:0→19:1) to give (2R,4S)-4-([3,5-bis-(trifluoromethyl)benzyl]-{5-[(2-carboxyethyl)methylcarbamoyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (223 mg). MS (m/z): 713 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O)CC | C28H27F6N5O5
reactant | 3-methylaminopropionic acid tert-butyl ester hydrochloride | 101.14 mg | Cl.C(C)(C)(C)OC(CCNC)=O
reactant | 1-hydroxybenzotriazole hydrate | 65 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 92 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 53 μl | C(C)N(CC)CC | C6H15N
product | (2R,4S)-4-([3,5-bis-(trifluoromethyl)benzyl]-{5-[(2-carboxyethyl)methylcarbamoyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 223 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(N(C)CCC(=O)O)=O)CC | C32H34F6N6O6
